US06008243
To a solution of (S)-(-)-4-benzyl-2-oxazolidinone (350 mg, 2.00 mmol) in dry THF (10 mL) at -30° C. was added dropwise n-butyllithium (2.59 M in hexanes, 0.8 mL). The mixture was cooled to -78° C. and treated with 2-thiopheneacetyl chloride (0.25 mL, 2 mmol). After stirring at -78° C. for 45 minutes, the mixture was allowed to warm to ambient temperature and stir for 1 hour. The mixture was diluted with hexanes (10 mL), quenched with 1M pH 7 phosphate buffer, and stirred for 45 minutes. The layers of the resultant biphasic mixture were separated and the aqueousueous phase extracted with EtOAc. The combined organic layers were washed with 0.5N aqueous HCl two times, saturated aqueous NaHCO3 two times, and brine, dried over Na2SO4, and concentrated to provide a crude residue which was purified via flash column chromatography with 20% EtOAc/hex as eluant to yield 319 mg (53%) of 4(S)-benzyl-3-(2-thien-2-yl-acetyl)-2-oxazolidinone as a tan solid, mp 56-9° C. 1H NMR: δ 7.34-7.26 (m, 5H), 7.17-7.14 (m, 2H), 7.02-6.98 (m, 1H), 4.72-4.67 (m, 1H), 4.57, 4.48 (AB quartet, 2H, J=16.8 Hz), 4.26-4.17 (m, 2H), 3.29 (dd, 1H, J=3.2, 13.4 Hz), 2.78 (dd, 1H, J=9.5, 13.4 Hz). Anal. Calculated for C16H15NO3S: C, 63.77; H, 5.02; N, 4.65; S, 10.64. Found: C, 63.87; H, 5.04; N, 4.71; S, 10.74.

reactant | (S)-(-)-4-benzyl-2-oxazolidinone | 2.00 mmol, 350 mg | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyllithium | 2.59 M, 0.8 mL | C(CCC)[Li]
reactant | 2-thiopheneacetyl chloride | 2 mmol, 0.25 mL | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4(S)-benzyl-3-(2-thien-2-yl-acetyl)-2-oxazolidinone | 319 mg, 53% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC=1SC=CC1)=O | C16H15NO3S
